US06608203B2
1-Trifluoroacetyl-piperidine-4-carboxylic acid [2-(3-methoxy-phenyl)-ethyl]-amide
To a stirred solution of 3-methoxy phenylethylamine (9.3 g, 61.6 mmol) and triethylamine (8.1 g, 11.2 ml, 80.1 mmol) in CH2Cl2 (50 ml) at 0° C. under an atmosphere of N2 was added 1-trifluoroacetyl-piperidine-4-carbonyl chloride (15.0 g, 61.6 mmol) as a solution in CH2Cl2 (50 ml) in a dropwise manner. The reaction was allowed to warm to RT overnight. The reaction was quenched with water (50 ml), the layers were separated, and the organic layer was washed with water (1×50 ml). The combined aqueous layers were back extracted with CH2Cl2 (1×75 ml). The combined organic layers were washed with brine (1×75 ml). The organic layer was dried over MgSO4, filtered, and concentrated in vacuo. The resulting solid was triturated with Et2O and filtered to give the desired product (18.8 g, 52.3 mmol, 85% yield).

reactant | 3-methoxy phenylethylamine | 61.6 mmol, 9.3 g | COC=1C=C(C=CC1)CCN | C9H13NO
reactant | triethylamine | 80.1 mmol, 11.2 ml, 8.1 g | C(C)N(CC)CC | C6H15N
reactant | 1-trifluoroacetyl-piperidine-4-carbonyl chloride | 61.6 mmol, 15.0 g | FC(C(=O)N1CCC(CC1)C(=O)Cl)(F)F | C8H9ClF3NO2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 1-Trifluoroacetyl-piperidine-4-carboxylic acid [2-(3-methoxy-phenyl)-ethyl]-amide | 52.3 mmol, 18.8 g, 85% yield | COC=1C=C(C=CC1)CCNC(=O)C1CCN(CC1)C(C(F)(F)F)=O | C17H21F3N2O3
